US09034866B2
Into a 5000-mL 4-necked round-bottom flask was placed a solution of methyl 9-bromo-10-fluoro-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-4-carboxylate (110 g, 313.24 mmol, 1.00 equiv) in methanol/NaOH (40%) (1000 mL). The resulting solution was heated to reflux for 1.5 hours and concentrated under vacuum. Hydrogen chloride (2 mol/L) was used to adjust the pH to 4. The precipitates were collected by filtration, washed with 1×1000 mL of water and dried to afford 91 g (86%) of 9-bromo-10-fluoro-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-4-carboxylic acid as a white solid.

reactant | methyl 9-bromo-10-fluoro-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-4-carboxylate | 313.24 mmol, 110 g, 1.00 equiv | BrC=1C=C2C3=NC(=CN3C3CC(C2=CC1F)C3)C(=O)OC | C15H12BrFN2O2
solvent | methanol NaOH | 1000 mL | CO.[OH-].[Na+]
product | 9-bromo-10-fluoro-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-4-carboxylic acid | 91 g, 86% | BrC=1C=C2C3=NC(=CN3C3CC(C2=CC1F)C3)C(=O)O | C14H10BrFN2O2
